// File: nand2x1_pcell.spi.NAND2X1_PCELL.pxi
// Created: Thu Jan 22 07:14:06 2026
// 
simulator lang=spectre
x_PM_NAND2X1_PCELL\%noxref_1 ( N_noxref_1_c_1_p N_noxref_1_c_2_p \
 N_noxref_1_c_15_p N_noxref_1_c_3_p N_noxref_1_c_13_p N_noxref_1_M2_noxref_s \
 N_noxref_1_M3_noxref_d N_noxref_1_M5_noxref_d )  PM_NAND2X1_PCELL\%noxref_1
x_PM_NAND2X1_PCELL\%noxref_2 ( N_noxref_2_c_67_p N_noxref_2_c_56_n \
 N_noxref_2_c_59_n N_noxref_2_c_69_p N_noxref_2_c_60_n N_noxref_2_M0_noxref_g \
 N_noxref_2_M2_noxref_g N_noxref_2_M3_noxref_g N_noxref_2_c_70_p \
 N_noxref_2_c_71_p N_noxref_2_c_72_p N_noxref_2_c_73_p N_noxref_2_c_74_p \
 N_noxref_2_c_75_p N_noxref_2_c_76_p N_noxref_2_c_77_p N_noxref_2_c_66_n )  \
 PM_NAND2X1_PCELL\%noxref_2
x_PM_NAND2X1_PCELL\%noxref_4 ( N_noxref_4_c_174_n N_noxref_4_c_179_n \
 N_noxref_4_c_182_n N_noxref_4_c_166_n N_noxref_4_M1_noxref_g \
 N_noxref_4_M4_noxref_g N_noxref_4_M5_noxref_g N_noxref_4_c_193_n \
 N_noxref_4_c_196_n N_noxref_4_c_198_n N_noxref_4_c_171_n N_noxref_4_c_238_p \
 N_noxref_4_c_220_p N_noxref_4_c_201_n N_noxref_4_c_202_n N_noxref_4_c_203_n \
 N_noxref_4_c_222_p N_noxref_4_c_172_n )  PM_NAND2X1_PCELL\%noxref_4
x_PM_NAND2X1_PCELL\%noxref_5 ( N_noxref_5_c_262_n N_noxref_5_c_308_n \
 N_noxref_5_c_266_n N_noxref_5_c_309_n N_noxref_5_c_352_p N_noxref_5_c_269_n \
 N_noxref_5_c_271_n N_noxref_5_c_276_n N_noxref_5_c_280_n N_noxref_5_c_312_n \
 N_noxref_5_c_285_n N_noxref_5_c_291_n N_noxref_5_M1_noxref_d \
 N_noxref_5_M2_noxref_d N_noxref_5_M4_noxref_d )  PM_NAND2X1_PCELL\%noxref_5
x_PM_NAND2X1_PCELL\%noxref_6 ( N_noxref_6_c_360_n N_noxref_6_c_361_n \
 N_noxref_6_c_372_n N_noxref_6_c_367_n N_noxref_6_c_374_n N_noxref_6_c_375_n \
 N_noxref_6_M0_noxref_s )  PM_NAND2X1_PCELL\%noxref_6
cc_1 ( N_noxref_1_c_1_p N_noxref_2_c_56_n ) capacitor c=9.05427e-19 //x=2.59 \
 //y=7.4 //x2=1.11 //y2=4.7
cc_2 ( N_noxref_1_c_2_p N_noxref_2_c_56_n ) capacitor c=6.28732e-19 //x=1.585 \
 //y=7.4 //x2=1.11 //y2=4.7
cc_3 ( N_noxref_1_c_3_p N_noxref_2_c_56_n ) capacitor c=0.00867681f //x=0.74 \
 //y=7.4 //x2=1.11 //y2=4.7
cc_4 ( N_noxref_1_c_3_p N_noxref_2_c_59_n ) capacitor c=0.0104242f //x=0.74 \
 //y=7.4 //x2=1.112 //y2=4.56
cc_5 ( N_noxref_1_c_1_p N_noxref_2_c_60_n ) capacitor c=6.23118e-19 //x=2.59 \
 //y=7.4 //x2=1.11 //y2=4.7
cc_6 ( N_noxref_1_c_3_p N_noxref_2_c_60_n ) capacitor c=0.00370735f //x=0.74 \
 //y=7.4 //x2=1.11 //y2=4.7
cc_7 ( N_noxref_1_c_2_p N_noxref_2_M2_noxref_g ) capacitor c=0.0072715f \
 //x=1.585 //y=7.4 //x2=1.01 //y2=6.02
cc_8 ( N_noxref_1_M2_noxref_s N_noxref_2_M2_noxref_g ) capacitor c=0.0567929f \
 //x=0.655 //y=5.02 //x2=1.01 //y2=6.02
cc_9 ( N_noxref_1_c_2_p N_noxref_2_M3_noxref_g ) capacitor c=0.00749619f \
 //x=1.585 //y=7.4 //x2=1.45 //y2=6.02
cc_10 ( N_noxref_1_M3_noxref_d N_noxref_2_M3_noxref_g ) capacitor c=0.015318f \
 //x=1.525 //y=5.02 //x2=1.45 //y2=6.02
cc_11 ( N_noxref_1_c_3_p N_noxref_2_c_66_n ) capacitor c=0.0236933f //x=0.74 \
 //y=7.4 //x2=1.11 //y2=4.7
cc_12 ( N_noxref_1_c_3_p noxref_3 ) capacitor c=0.00989031f //x=0.74 //y=7.4 \
 //x2=0.99 //y2=0.865
cc_13 ( N_noxref_1_c_13_p noxref_3 ) capacitor c=0.00989031f //x=2.59 //y=7.4 \
 //x2=0.99 //y2=0.865
cc_14 ( N_noxref_1_c_13_p N_noxref_4_c_166_n ) capacitor c=0.00226427f \
 //x=2.59 //y=7.4 //x2=1.88 //y2=4.7
cc_15 ( N_noxref_1_c_15_p N_noxref_4_M4_noxref_g ) capacitor c=0.00692597f \
 //x=2.465 //y=7.4 //x2=1.89 //y2=6.02
cc_16 ( N_noxref_1_M3_noxref_d N_noxref_4_M4_noxref_g ) capacitor c=0.015318f \
 //x=1.525 //y=5.02 //x2=1.89 //y2=6.02
cc_17 ( N_noxref_1_c_15_p N_noxref_4_M5_noxref_g ) capacitor c=0.00749619f \
 //x=2.465 //y=7.4 //x2=2.33 //y2=6.02
cc_18 ( N_noxref_1_M5_noxref_d N_noxref_4_M5_noxref_g ) capacitor c=0.0430452f \
 //x=2.405 //y=5.02 //x2=2.33 //y2=6.02
cc_19 ( N_noxref_1_c_13_p N_noxref_4_c_171_n ) capacitor c=0.0237963f //x=2.59 \
 //y=7.4 //x2=2.255 //y2=4.79
cc_20 ( N_noxref_1_c_13_p N_noxref_4_c_172_n ) capacitor c=2.73429e-19 \
 //x=2.59 //y=7.4 //x2=1.88 //y2=4.7
cc_21 ( N_noxref_1_M3_noxref_d N_noxref_4_c_172_n ) capacitor c=3.32274e-19 \
 //x=1.525 //y=5.02 //x2=1.88 //y2=4.7
cc_22 ( N_noxref_1_c_1_p N_noxref_5_c_262_n ) capacitor c=0.00647565f //x=2.59 \
 //y=7.4 //x2=1.995 //y2=5.2
cc_23 ( N_noxref_1_c_2_p N_noxref_5_c_262_n ) capacitor c=0.00213214f \
 //x=1.585 //y=7.4 //x2=1.995 //y2=5.2
cc_24 ( N_noxref_1_c_15_p N_noxref_5_c_262_n ) capacitor c=0.00184538f \
 //x=2.465 //y=7.4 //x2=1.995 //y2=5.2
cc_25 ( N_noxref_1_M3_noxref_d N_noxref_5_c_262_n ) capacitor c=0.00810167f \
 //x=1.525 //y=5.02 //x2=1.995 //y2=5.2
cc_26 ( N_noxref_1_c_1_p N_noxref_5_c_266_n ) capacitor c=0.0048744f //x=2.59 \
 //y=7.4 //x2=2.505 //y2=5.2
cc_27 ( N_noxref_1_c_15_p N_noxref_5_c_266_n ) capacitor c=0.00213214f \
 //x=2.465 //y=7.4 //x2=2.505 //y2=5.2
cc_28 ( N_noxref_1_M5_noxref_d N_noxref_5_c_266_n ) capacitor c=0.0125278f \
 //x=2.405 //y=5.02 //x2=2.505 //y2=5.2
cc_29 ( N_noxref_1_c_3_p N_noxref_5_c_269_n ) capacitor c=9.10056e-19 //x=0.74 \
 //y=7.4 //x2=2.59 //y2=5.115
cc_30 ( N_noxref_1_c_13_p N_noxref_5_c_269_n ) capacitor c=0.0392011f //x=2.59 \
 //y=7.4 //x2=2.59 //y2=5.115
cc_31 ( N_noxref_1_c_1_p N_noxref_5_c_271_n ) capacitor c=0.00368144f //x=2.59 \
 //y=7.4 //x2=1.23 //y2=5.38
cc_32 ( N_noxref_1_c_2_p N_noxref_5_c_271_n ) capacitor c=9.98713e-19 \
 //x=1.585 //y=7.4 //x2=1.23 //y2=5.38
cc_33 ( N_noxref_1_c_3_p N_noxref_5_c_271_n ) capacitor c=6.39392e-19 //x=0.74 \
 //y=7.4 //x2=1.23 //y2=5.38
cc_34 ( N_noxref_1_M2_noxref_s N_noxref_5_c_271_n ) capacitor c=0.0629787f \
 //x=0.655 //y=5.02 //x2=1.23 //y2=5.38
cc_35 ( N_noxref_1_M3_noxref_d N_noxref_5_c_271_n ) capacitor c=0.0043528f \
 //x=1.525 //y=5.02 //x2=1.23 //y2=5.38
cc_36 ( N_noxref_1_c_1_p N_noxref_5_c_276_n ) capacitor c=8.41206e-19 //x=2.59 \
 //y=7.4 //x2=2.11 //y2=5.2
cc_37 ( N_noxref_1_c_15_p N_noxref_5_c_276_n ) capacitor c=5.38567e-19 \
 //x=2.465 //y=7.4 //x2=2.11 //y2=5.2
cc_38 ( N_noxref_1_c_13_p N_noxref_5_c_276_n ) capacitor c=0.00379179f \
 //x=2.59 //y=7.4 //x2=2.11 //y2=5.2
cc_39 ( N_noxref_1_M2_noxref_s N_noxref_5_c_276_n ) capacitor c=6.52457e-19 \
 //x=0.655 //y=5.02 //x2=2.11 //y2=5.2
cc_40 ( N_noxref_1_c_1_p N_noxref_5_c_280_n ) capacitor c=0.00285294f //x=2.59 \
 //y=7.4 //x2=2.11 //y2=5.38
cc_41 ( N_noxref_1_c_15_p N_noxref_5_c_280_n ) capacitor c=5.78261e-19 \
 //x=2.465 //y=7.4 //x2=2.11 //y2=5.38
cc_42 ( N_noxref_1_c_13_p N_noxref_5_c_280_n ) capacitor c=0.0016115f //x=2.59 \
 //y=7.4 //x2=2.11 //y2=5.38
cc_43 ( N_noxref_1_M3_noxref_d N_noxref_5_c_280_n ) capacitor c=0.0043528f \
 //x=1.525 //y=5.02 //x2=2.11 //y2=5.38
cc_44 ( N_noxref_1_M5_noxref_d N_noxref_5_c_280_n ) capacitor c=0.00979407f \
 //x=2.405 //y=5.02 //x2=2.11 //y2=5.38
cc_45 ( N_noxref_1_c_1_p N_noxref_5_c_285_n ) capacitor c=0.00224727f //x=2.59 \
 //y=7.4 //x2=1.23 //y2=5.38
cc_46 ( N_noxref_1_c_2_p N_noxref_5_c_285_n ) capacitor c=0.0136475f //x=1.585 \
 //y=7.4 //x2=1.23 //y2=5.38
cc_47 ( N_noxref_1_c_3_p N_noxref_5_c_285_n ) capacitor c=0.0064135f //x=0.74 \
 //y=7.4 //x2=1.23 //y2=5.38
cc_48 ( N_noxref_1_c_13_p N_noxref_5_c_285_n ) capacitor c=0.00135089f \
 //x=2.59 //y=7.4 //x2=1.23 //y2=5.38
cc_49 ( N_noxref_1_M2_noxref_s N_noxref_5_c_285_n ) capacitor c=0.0906717f \
 //x=0.655 //y=5.02 //x2=1.23 //y2=5.38
cc_50 ( N_noxref_1_M3_noxref_d N_noxref_5_c_285_n ) capacitor c=0.065554f \
 //x=1.525 //y=5.02 //x2=1.23 //y2=5.38
cc_51 ( N_noxref_1_c_1_p N_noxref_5_c_291_n ) capacitor c=0.00224727f //x=2.59 \
 //y=7.4 //x2=2.11 //y2=5.38
cc_52 ( N_noxref_1_c_15_p N_noxref_5_c_291_n ) capacitor c=0.0136475f \
 //x=2.465 //y=7.4 //x2=2.11 //y2=5.38
cc_53 ( N_noxref_1_c_13_p N_noxref_5_c_291_n ) capacitor c=0.0115375f //x=2.59 \
 //y=7.4 //x2=2.11 //y2=5.38
cc_54 ( N_noxref_1_M3_noxref_d N_noxref_5_c_291_n ) capacitor c=0.065554f \
 //x=1.525 //y=5.02 //x2=2.11 //y2=5.38
cc_55 ( N_noxref_1_M5_noxref_d N_noxref_5_c_291_n ) capacitor c=0.065554f \
 //x=2.405 //y=5.02 //x2=2.11 //y2=5.38
cc_56 ( N_noxref_2_c_67_p noxref_3 ) capacitor c=0.0162132f //x=1.11 //y=2.08 \
 //x2=0.99 //y2=0.865
cc_57 ( N_noxref_2_c_59_n noxref_3 ) capacitor c=0.0117984f //x=1.112 //y=4.56 \
 //x2=0.99 //y2=0.865
cc_58 ( N_noxref_2_c_69_p noxref_3 ) capacitor c=0.00391038f //x=1.11 //y=2.08 \
 //x2=0.99 //y2=0.865
cc_59 ( N_noxref_2_c_70_p noxref_3 ) capacitor c=0.0107582f //x=0.915 \
 //y=0.865 //x2=0.99 //y2=0.865
cc_60 ( N_noxref_2_c_71_p noxref_3 ) capacitor c=0.00624626f //x=0.915 \
 //y=1.21 //x2=0.99 //y2=0.865
cc_61 ( N_noxref_2_c_72_p noxref_3 ) capacitor c=0.00196804f //x=0.915 \
 //y=1.52 //x2=0.99 //y2=0.865
cc_62 ( N_noxref_2_c_73_p noxref_3 ) capacitor c=0.00978771f //x=0.915 \
 //y=1.915 //x2=0.99 //y2=0.865
cc_63 ( N_noxref_2_c_74_p noxref_3 ) capacitor c=0.0139015f //x=1.29 //y=0.71 \
 //x2=0.99 //y2=0.865
cc_64 ( N_noxref_2_c_75_p noxref_3 ) capacitor c=0.002307f //x=1.29 //y=1.365 \
 //x2=0.99 //y2=0.865
cc_65 ( N_noxref_2_c_76_p noxref_3 ) capacitor c=0.00433327f //x=1.445 \
 //y=0.865 //x2=0.99 //y2=0.865
cc_66 ( N_noxref_2_c_77_p noxref_3 ) capacitor c=0.00507134f //x=1.445 \
 //y=1.21 //x2=0.99 //y2=0.865
cc_67 ( N_noxref_2_c_56_n N_noxref_4_c_174_n ) capacitor c=0.0172863f //x=1.11 \
 //y=4.7 //x2=1.85 //y2=4.555
cc_68 ( N_noxref_2_c_59_n N_noxref_4_c_174_n ) capacitor c=0.10994f //x=1.112 \
 //y=4.56 //x2=1.85 //y2=4.555
cc_69 ( N_noxref_2_c_69_p N_noxref_4_c_174_n ) capacitor c=3.49899e-19 \
 //x=1.11 //y=2.08 //x2=1.85 //y2=4.555
cc_70 ( N_noxref_2_c_60_n N_noxref_4_c_174_n ) capacitor c=7.76143e-19 \
 //x=1.11 //y=4.7 //x2=1.85 //y2=4.555
cc_71 ( N_noxref_2_c_66_n N_noxref_4_c_174_n ) capacitor c=0.00201171f \
 //x=1.11 //y=4.7 //x2=1.85 //y2=4.555
cc_72 ( N_noxref_2_c_67_p N_noxref_4_c_179_n ) capacitor c=0.0205342f //x=1.11 \
 //y=2.08 //x2=1.85 //y2=2.08
cc_73 ( N_noxref_2_c_69_p N_noxref_4_c_179_n ) capacitor c=5.16867e-19 \
 //x=1.11 //y=2.08 //x2=1.85 //y2=2.08
cc_74 ( N_noxref_2_c_73_p N_noxref_4_c_179_n ) capacitor c=0.00167888f \
 //x=0.915 //y=1.915 //x2=1.85 //y2=2.08
cc_75 ( N_noxref_2_c_67_p N_noxref_4_c_182_n ) capacitor c=0.00370824f \
 //x=1.11 //y=2.08 //x2=1.85 //y2=2.08
cc_76 ( N_noxref_2_c_59_n N_noxref_4_c_182_n ) capacitor c=3.49899e-19 \
 //x=1.112 //y=4.56 //x2=1.85 //y2=2.08
cc_77 ( N_noxref_2_c_69_p N_noxref_4_c_182_n ) capacitor c=0.00485709f \
 //x=1.11 //y=2.08 //x2=1.85 //y2=2.08
cc_78 ( N_noxref_2_c_73_p N_noxref_4_c_182_n ) capacitor c=0.00190888f \
 //x=0.915 //y=1.915 //x2=1.85 //y2=2.08
cc_79 ( N_noxref_2_c_56_n N_noxref_4_c_166_n ) capacitor c=0.00389736f \
 //x=1.11 //y=4.7 //x2=1.88 //y2=4.7
cc_80 ( N_noxref_2_c_59_n N_noxref_4_c_166_n ) capacitor c=2.1563e-19 \
 //x=1.112 //y=4.56 //x2=1.88 //y2=4.7
cc_81 ( N_noxref_2_c_60_n N_noxref_4_c_166_n ) capacitor c=0.0043355f //x=1.11 \
 //y=4.7 //x2=1.88 //y2=4.7
cc_82 ( N_noxref_2_c_66_n N_noxref_4_c_166_n ) capacitor c=0.00212168f \
 //x=1.11 //y=4.7 //x2=1.88 //y2=4.7
cc_83 ( N_noxref_2_M2_noxref_g N_noxref_4_M4_noxref_g ) capacitor c=0.0104892f \
 //x=1.01 //y=6.02 //x2=1.89 //y2=6.02
cc_84 ( N_noxref_2_M3_noxref_g N_noxref_4_M4_noxref_g ) capacitor c=0.107636f \
 //x=1.45 //y=6.02 //x2=1.89 //y2=6.02
cc_85 ( N_noxref_2_M3_noxref_g N_noxref_4_M5_noxref_g ) capacitor c=0.0100341f \
 //x=1.45 //y=6.02 //x2=2.33 //y2=6.02
cc_86 ( N_noxref_2_c_70_p N_noxref_4_c_193_n ) capacitor c=4.86545e-19 \
 //x=0.915 //y=0.865 //x2=1.885 //y2=0.905
cc_87 ( N_noxref_2_c_71_p N_noxref_4_c_193_n ) capacitor c=0.00152405f \
 //x=0.915 //y=1.21 //x2=1.885 //y2=0.905
cc_88 ( N_noxref_2_c_76_p N_noxref_4_c_193_n ) capacitor c=0.0151475f \
 //x=1.445 //y=0.865 //x2=1.885 //y2=0.905
cc_89 ( N_noxref_2_c_72_p N_noxref_4_c_196_n ) capacitor c=0.00109982f \
 //x=0.915 //y=1.52 //x2=1.885 //y2=1.25
cc_90 ( N_noxref_2_c_77_p N_noxref_4_c_196_n ) capacitor c=0.0111064f \
 //x=1.445 //y=1.21 //x2=1.885 //y2=1.25
cc_91 ( N_noxref_2_c_72_p N_noxref_4_c_198_n ) capacitor c=9.58243e-19 \
 //x=0.915 //y=1.52 //x2=1.885 //y2=1.56
cc_92 ( N_noxref_2_c_73_p N_noxref_4_c_198_n ) capacitor c=0.00662747f \
 //x=0.915 //y=1.915 //x2=1.885 //y2=1.56
cc_93 ( N_noxref_2_c_77_p N_noxref_4_c_198_n ) capacitor c=0.00862358f \
 //x=1.445 //y=1.21 //x2=1.885 //y2=1.56
cc_94 ( N_noxref_2_c_76_p N_noxref_4_c_201_n ) capacitor c=0.00127211f \
 //x=1.445 //y=0.865 //x2=2.415 //y2=0.905
cc_95 ( N_noxref_2_c_77_p N_noxref_4_c_202_n ) capacitor c=0.00204774f \
 //x=1.445 //y=1.21 //x2=2.415 //y2=1.25
cc_96 ( N_noxref_2_c_67_p N_noxref_4_c_203_n ) capacitor c=0.00167305f \
 //x=1.11 //y=2.08 //x2=1.85 //y2=2.08
cc_97 ( N_noxref_2_c_69_p N_noxref_4_c_203_n ) capacitor c=0.00266443f \
 //x=1.11 //y=2.08 //x2=1.85 //y2=2.08
cc_98 ( N_noxref_2_c_73_p N_noxref_4_c_203_n ) capacitor c=0.0181449f \
 //x=0.915 //y=1.915 //x2=1.85 //y2=2.08
cc_99 ( N_noxref_2_c_56_n N_noxref_4_c_172_n ) capacitor c=0.00158715f \
 //x=1.11 //y=4.7 //x2=1.88 //y2=4.7
cc_100 ( N_noxref_2_c_60_n N_noxref_4_c_172_n ) capacitor c=0.00237977f \
 //x=1.11 //y=4.7 //x2=1.88 //y2=4.7
cc_101 ( N_noxref_2_c_66_n N_noxref_4_c_172_n ) capacitor c=0.0297875f \
 //x=1.11 //y=4.7 //x2=1.88 //y2=4.7
cc_102 ( N_noxref_2_M3_noxref_g N_noxref_5_c_262_n ) capacitor c=0.0129249f \
 //x=1.45 //y=6.02 //x2=1.995 //y2=5.2
cc_103 ( N_noxref_2_c_59_n N_noxref_5_c_269_n ) capacitor c=0.00707981f \
 //x=1.112 //y=4.56 //x2=2.59 //y2=5.115
cc_104 ( N_noxref_2_c_56_n N_noxref_5_c_271_n ) capacitor c=0.0118546f \
 //x=1.11 //y=4.7 //x2=1.23 //y2=5.38
cc_105 ( N_noxref_2_c_60_n N_noxref_5_c_271_n ) capacitor c=0.00277154f \
 //x=1.11 //y=4.7 //x2=1.23 //y2=5.38
cc_106 ( N_noxref_2_M2_noxref_g N_noxref_5_c_271_n ) capacitor c=0.0020878f \
 //x=1.01 //y=6.02 //x2=1.23 //y2=5.38
cc_107 ( N_noxref_2_M3_noxref_g N_noxref_5_c_271_n ) capacitor c=0.00192712f \
 //x=1.45 //y=6.02 //x2=1.23 //y2=5.38
cc_108 ( N_noxref_2_c_66_n N_noxref_5_c_271_n ) capacitor c=0.00207241f \
 //x=1.11 //y=4.7 //x2=1.23 //y2=5.38
cc_109 ( N_noxref_2_c_56_n N_noxref_5_c_285_n ) capacitor c=0.00165549f \
 //x=1.11 //y=4.7 //x2=1.23 //y2=5.38
cc_110 ( N_noxref_2_c_60_n N_noxref_5_c_285_n ) capacitor c=0.00377369f \
 //x=1.11 //y=4.7 //x2=1.23 //y2=5.38
cc_111 ( N_noxref_2_M2_noxref_g N_noxref_5_c_285_n ) capacitor c=0.0158358f \
 //x=1.01 //y=6.02 //x2=1.23 //y2=5.38
cc_112 ( N_noxref_2_M3_noxref_g N_noxref_5_c_285_n ) capacitor c=0.0178987f \
 //x=1.45 //y=6.02 //x2=1.23 //y2=5.38
cc_113 ( N_noxref_2_c_66_n N_noxref_5_c_285_n ) capacitor c=0.0043218f \
 //x=1.11 //y=4.7 //x2=1.23 //y2=5.38
cc_114 ( N_noxref_2_c_73_p N_noxref_6_c_360_n ) capacitor c=0.00267608f \
 //x=0.915 //y=1.915 //x2=0.695 //y2=1.495
cc_115 ( N_noxref_2_c_67_p N_noxref_6_c_361_n ) capacitor c=0.00459552f \
 //x=1.11 //y=2.08 //x2=1.58 //y2=1.58
cc_116 ( N_noxref_2_c_69_p N_noxref_6_c_361_n ) capacitor c=0.00763108f \
 //x=1.11 //y=2.08 //x2=1.58 //y2=1.58
cc_117 ( N_noxref_2_c_72_p N_noxref_6_c_361_n ) capacitor c=0.00695869f \
 //x=0.915 //y=1.52 //x2=1.58 //y2=1.58
cc_118 ( N_noxref_2_c_73_p N_noxref_6_c_361_n ) capacitor c=0.0194861f \
 //x=0.915 //y=1.915 //x2=1.58 //y2=1.58
cc_119 ( N_noxref_2_c_75_p N_noxref_6_c_361_n ) capacitor c=0.00723574f \
 //x=1.29 //y=1.365 //x2=1.58 //y2=1.58
cc_120 ( N_noxref_2_c_77_p N_noxref_6_c_361_n ) capacitor c=0.00339872f \
 //x=1.445 //y=1.21 //x2=1.58 //y2=1.58
cc_121 ( N_noxref_2_c_73_p N_noxref_6_c_367_n ) capacitor c=6.71402e-19 \
 //x=0.915 //y=1.915 //x2=1.665 //y2=1.495
cc_122 ( N_noxref_2_c_70_p N_noxref_6_M0_noxref_s ) capacitor c=0.0294925f \
 //x=0.915 //y=0.865 //x2=0.56 //y2=0.365
cc_123 ( N_noxref_2_c_72_p N_noxref_6_M0_noxref_s ) capacitor c=3.48408e-19 \
 //x=0.915 //y=1.52 //x2=0.56 //y2=0.365
cc_124 ( N_noxref_2_c_76_p N_noxref_6_M0_noxref_s ) capacitor c=0.0125442f \
 //x=1.445 //y=0.865 //x2=0.56 //y2=0.365
cc_125 ( noxref_3 N_noxref_4_c_179_n ) capacitor c=0.00271866f //x=0.99 \
 //y=0.865 //x2=1.85 //y2=2.08
cc_126 ( noxref_3 N_noxref_4_c_182_n ) capacitor c=0.00224736f //x=0.99 \
 //y=0.865 //x2=1.85 //y2=2.08
cc_127 ( noxref_3 N_noxref_4_c_202_n ) capacitor c=0.0028807f //x=0.99 \
 //y=0.865 //x2=2.415 //y2=1.25
cc_128 ( noxref_3 N_noxref_4_c_203_n ) capacitor c=2.63786e-19 //x=0.99 \
 //y=0.865 //x2=1.85 //y2=2.08
cc_129 ( noxref_3 N_noxref_5_c_308_n ) capacitor c=0.00528499f //x=0.99 \
 //y=0.865 //x2=2.15 //y2=1.57
cc_130 ( noxref_3 N_noxref_5_c_309_n ) capacitor c=0.0471656f //x=0.99 \
 //y=0.865 //x2=2.505 //y2=1.655
cc_131 ( noxref_3 N_noxref_5_c_269_n ) capacitor c=3.90925e-19 //x=0.99 \
 //y=0.865 //x2=2.59 //y2=5.115
cc_132 ( noxref_3 N_noxref_5_c_271_n ) capacitor c=9.64329e-19 //x=0.99 \
 //y=0.865 //x2=1.23 //y2=5.38
cc_133 ( noxref_3 N_noxref_5_c_312_n ) capacitor c=0.02456f //x=0.99 //y=0.865 \
 //x2=2.15 //y2=1
cc_134 ( noxref_3 N_noxref_5_M1_noxref_d ) capacitor c=5.95198e-19 //x=0.99 \
 //y=0.865 //x2=1.96 //y2=0.905
cc_135 ( noxref_3 N_noxref_6_c_361_n ) capacitor c=0.0183485f //x=0.99 \
 //y=0.865 //x2=1.58 //y2=1.58
cc_136 ( noxref_3 N_noxref_6_c_372_n ) capacitor c=0.0427174f //x=0.99 \
 //y=0.865 //x2=1.665 //y2=0.615
cc_137 ( noxref_3 N_noxref_6_c_367_n ) capacitor c=2.86142e-19 //x=0.99 \
 //y=0.865 //x2=1.665 //y2=1.495
cc_138 ( noxref_3 N_noxref_6_c_374_n ) capacitor c=0.0504989f //x=0.99 \
 //y=0.865 //x2=2.55 //y2=0.53
cc_139 ( noxref_3 N_noxref_6_c_375_n ) capacitor c=0.0618406f //x=0.99 \
 //y=0.865 //x2=2.635 //y2=0.615
cc_140 ( noxref_3 N_noxref_6_M0_noxref_s ) capacitor c=0.141839f //x=0.99 \
 //y=0.865 //x2=0.56 //y2=0.365
cc_141 ( N_noxref_4_c_174_n N_noxref_5_c_262_n ) capacitor c=0.0228479f \
 //x=1.85 //y=4.555 //x2=1.995 //y2=5.2
cc_142 ( N_noxref_4_c_179_n N_noxref_5_c_262_n ) capacitor c=2.77624e-19 \
 //x=1.85 //y=2.08 //x2=1.995 //y2=5.2
cc_143 ( N_noxref_4_c_166_n N_noxref_5_c_262_n ) capacitor c=0.00469257f \
 //x=1.88 //y=4.7 //x2=1.995 //y2=5.2
cc_144 ( N_noxref_4_M4_noxref_g N_noxref_5_c_262_n ) capacitor c=0.00842859f \
 //x=1.89 //y=6.02 //x2=1.995 //y2=5.2
cc_145 ( N_noxref_4_c_172_n N_noxref_5_c_262_n ) capacitor c=9.8107e-19 \
 //x=1.88 //y=4.7 //x2=1.995 //y2=5.2
cc_146 ( N_noxref_4_c_196_n N_noxref_5_c_308_n ) capacitor c=0.00127432f \
 //x=1.885 //y=1.25 //x2=2.15 //y2=1.57
cc_147 ( N_noxref_4_c_198_n N_noxref_5_c_308_n ) capacitor c=0.00454577f \
 //x=1.885 //y=1.56 //x2=2.15 //y2=1.57
cc_148 ( N_noxref_4_c_220_p N_noxref_5_c_308_n ) capacitor c=0.00942306f \
 //x=2.26 //y=1.405 //x2=2.15 //y2=1.57
cc_149 ( N_noxref_4_c_202_n N_noxref_5_c_308_n ) capacitor c=0.00341295f \
 //x=2.415 //y=1.25 //x2=2.15 //y2=1.57
cc_150 ( N_noxref_4_c_222_p N_noxref_5_c_308_n ) capacitor c=0.00371023f \
 //x=1.85 //y=1.915 //x2=2.15 //y2=1.57
cc_151 ( N_noxref_4_M5_noxref_g N_noxref_5_c_266_n ) capacitor c=0.0115937f \
 //x=2.33 //y=6.02 //x2=2.505 //y2=5.2
cc_152 ( N_noxref_4_c_220_p N_noxref_5_c_309_n ) capacitor c=0.00194324f \
 //x=2.26 //y=1.405 //x2=2.505 //y2=1.655
cc_153 ( N_noxref_4_c_202_n N_noxref_5_c_309_n ) capacitor c=0.00323005f \
 //x=2.415 //y=1.25 //x2=2.505 //y2=1.655
cc_154 ( N_noxref_4_c_174_n N_noxref_5_c_269_n ) capacitor c=0.126493f \
 //x=1.85 //y=4.555 //x2=2.59 //y2=5.115
cc_155 ( N_noxref_4_c_179_n N_noxref_5_c_269_n ) capacitor c=0.015397f \
 //x=1.85 //y=2.08 //x2=2.59 //y2=5.115
cc_156 ( N_noxref_4_c_182_n N_noxref_5_c_269_n ) capacitor c=0.00440663f \
 //x=1.85 //y=2.08 //x2=2.59 //y2=5.115
cc_157 ( N_noxref_4_c_166_n N_noxref_5_c_269_n ) capacitor c=0.00448306f \
 //x=1.88 //y=4.7 //x2=2.59 //y2=5.115
cc_158 ( N_noxref_4_c_171_n N_noxref_5_c_269_n ) capacitor c=0.00471634f \
 //x=2.255 //y=4.79 //x2=2.59 //y2=5.115
cc_159 ( N_noxref_4_c_203_n N_noxref_5_c_269_n ) capacitor c=0.00274445f \
 //x=1.85 //y=2.08 //x2=2.59 //y2=5.115
cc_160 ( N_noxref_4_c_172_n N_noxref_5_c_269_n ) capacitor c=0.00142201f \
 //x=1.88 //y=4.7 //x2=2.59 //y2=5.115
cc_161 ( N_noxref_4_M4_noxref_g N_noxref_5_c_276_n ) capacitor c=0.00192712f \
 //x=1.89 //y=6.02 //x2=2.11 //y2=5.2
cc_162 ( N_noxref_4_M5_noxref_g N_noxref_5_c_276_n ) capacitor c=0.00362563f \
 //x=2.33 //y=6.02 //x2=2.11 //y2=5.2
cc_163 ( N_noxref_4_c_171_n N_noxref_5_c_276_n ) capacitor c=0.0020909f \
 //x=2.255 //y=4.79 //x2=2.11 //y2=5.2
cc_164 ( N_noxref_4_c_193_n N_noxref_5_c_312_n ) capacitor c=0.00120406f \
 //x=1.885 //y=0.905 //x2=2.15 //y2=1
cc_165 ( N_noxref_4_c_196_n N_noxref_5_c_312_n ) capacitor c=0.00220847f \
 //x=1.885 //y=1.25 //x2=2.15 //y2=1
cc_166 ( N_noxref_4_c_238_p N_noxref_5_c_312_n ) capacitor c=5.50523e-19 \
 //x=2.26 //y=0.75 //x2=2.15 //y2=1
cc_167 ( N_noxref_4_c_220_p N_noxref_5_c_312_n ) capacitor c=5.67071e-19 \
 //x=2.26 //y=1.405 //x2=2.15 //y2=1
cc_168 ( N_noxref_4_c_201_n N_noxref_5_c_312_n ) capacitor c=0.00121175f \
 //x=2.415 //y=0.905 //x2=2.15 //y2=1
cc_169 ( N_noxref_4_c_202_n N_noxref_5_c_312_n ) capacitor c=0.00366282f \
 //x=2.415 //y=1.25 //x2=2.15 //y2=1
cc_170 ( N_noxref_4_M4_noxref_g N_noxref_5_c_291_n ) capacitor c=0.0178987f \
 //x=1.89 //y=6.02 //x2=2.11 //y2=5.38
cc_171 ( N_noxref_4_M5_noxref_g N_noxref_5_c_291_n ) capacitor c=0.0178506f \
 //x=2.33 //y=6.02 //x2=2.11 //y2=5.38
cc_172 ( N_noxref_4_c_171_n N_noxref_5_c_291_n ) capacitor c=0.00291714f \
 //x=2.255 //y=4.79 //x2=2.11 //y2=5.38
cc_173 ( N_noxref_4_c_193_n N_noxref_5_M1_noxref_d ) capacitor c=0.00137165f \
 //x=1.885 //y=0.905 //x2=1.96 //y2=0.905
cc_174 ( N_noxref_4_c_196_n N_noxref_5_M1_noxref_d ) capacitor c=0.00237422f \
 //x=1.885 //y=1.25 //x2=1.96 //y2=0.905
cc_175 ( N_noxref_4_c_238_p N_noxref_5_M1_noxref_d ) capacitor c=0.0020782f \
 //x=2.26 //y=0.75 //x2=1.96 //y2=0.905
cc_176 ( N_noxref_4_c_220_p N_noxref_5_M1_noxref_d ) capacitor c=0.00356097f \
 //x=2.26 //y=1.405 //x2=1.96 //y2=0.905
cc_177 ( N_noxref_4_c_201_n N_noxref_5_M1_noxref_d ) capacitor c=8.50095e-19 \
 //x=2.415 //y=0.905 //x2=1.96 //y2=0.905
cc_178 ( N_noxref_4_c_202_n N_noxref_5_M1_noxref_d ) capacitor c=0.00237422f \
 //x=2.415 //y=1.25 //x2=1.96 //y2=0.905
cc_179 ( N_noxref_4_c_179_n N_noxref_6_c_367_n ) capacitor c=7.471e-19 \
 //x=1.85 //y=2.08 //x2=1.665 //y2=1.495
cc_180 ( N_noxref_4_c_198_n N_noxref_6_c_367_n ) capacitor c=0.00890678f \
 //x=1.885 //y=1.56 //x2=1.665 //y2=1.495
cc_181 ( N_noxref_4_c_203_n N_noxref_6_c_367_n ) capacitor c=0.00173073f \
 //x=1.85 //y=2.08 //x2=1.665 //y2=1.495
cc_182 ( N_noxref_4_c_179_n N_noxref_6_c_374_n ) capacitor c=0.00141156f \
 //x=1.85 //y=2.08 //x2=2.55 //y2=0.53
cc_183 ( N_noxref_4_c_182_n N_noxref_6_c_374_n ) capacitor c=8.82141e-19 \
 //x=1.85 //y=2.08 //x2=2.55 //y2=0.53
cc_184 ( N_noxref_4_c_193_n N_noxref_6_c_374_n ) capacitor c=0.0199501f \
 //x=1.885 //y=0.905 //x2=2.55 //y2=0.53
cc_185 ( N_noxref_4_c_201_n N_noxref_6_c_374_n ) capacitor c=0.00825432f \
 //x=2.415 //y=0.905 //x2=2.55 //y2=0.53
cc_186 ( N_noxref_4_c_203_n N_noxref_6_c_374_n ) capacitor c=2.1838e-19 \
 //x=1.85 //y=2.08 //x2=2.55 //y2=0.53
cc_187 ( N_noxref_4_c_193_n N_noxref_6_M0_noxref_s ) capacitor c=0.00890678f \
 //x=1.885 //y=0.905 //x2=0.56 //y2=0.365
cc_188 ( N_noxref_4_c_201_n N_noxref_6_M0_noxref_s ) capacitor c=0.015333f \
 //x=2.415 //y=0.905 //x2=0.56 //y2=0.365
cc_189 ( N_noxref_4_c_202_n N_noxref_6_M0_noxref_s ) capacitor c=0.00248746f \
 //x=2.415 //y=1.25 //x2=0.56 //y2=0.365
cc_190 ( N_noxref_5_c_352_p N_noxref_6_c_367_n ) capacitor c=0.0103386f \
 //x=2.235 //y=1.655 //x2=1.665 //y2=1.495
cc_191 ( N_noxref_5_c_309_n N_noxref_6_c_374_n ) capacitor c=0.00361884f \
 //x=2.505 //y=1.655 //x2=2.55 //y2=0.53
cc_192 ( N_noxref_5_c_312_n N_noxref_6_c_374_n ) capacitor c=0.00367971f \
 //x=2.15 //y=1 //x2=2.55 //y2=0.53
cc_193 ( N_noxref_5_M1_noxref_d N_noxref_6_c_374_n ) capacitor c=0.00910163f \
 //x=1.96 //y=0.905 //x2=2.55 //y2=0.53
cc_194 ( N_noxref_5_c_308_n N_noxref_6_M0_noxref_s ) capacitor c=0.0190756f \
 //x=2.15 //y=1.57 //x2=0.56 //y2=0.365
cc_195 ( N_noxref_5_c_309_n N_noxref_6_M0_noxref_s ) capacitor c=0.0078077f \
 //x=2.505 //y=1.655 //x2=0.56 //y2=0.365
cc_196 ( N_noxref_5_c_312_n N_noxref_6_M0_noxref_s ) capacitor c=0.0105237f \
 //x=2.15 //y=1 //x2=0.56 //y2=0.365
cc_197 ( N_noxref_5_M1_noxref_d N_noxref_6_M0_noxref_s ) capacitor \
 c=0.0275552f //x=1.96 //y=0.905 //x2=0.56 //y2=0.365
